US06353006B1
(1R,2R)-1-(Methanesulfonyloxymethyl)-2-(tert-butoxy)propanammonium chloride (Method B8a; 1.5 g, 5.5 mmol) was reacted with 2-methyl-4-nitrophenyl isothiocyanate in a manner analogous to that described in Method C1a to afford 4(S)-(1(R)-tert-butoxyethyl)-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine (1.2 g, 67%). The (4S)-2-(2-methyl-4-nitrophenylimino)-4-(1(R)-tert-butoxyethyl)-1,3-thiazolidine was reacted with isobutyl bromide in a manner analogous to Method D2a to yield (4S)-4-(1(R)-tert-butoxyethyl)-3-isobutyl-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine (0.26 g, 56%): TLC (25% EtOAc/hex) Rf0.67.

reactant | (4S)-2-(2-methyl-4-nitrophenylimino)-4-(1(R)-tert-butoxyethyl)-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC[C@@H](N1)[C@@H](C)OC(C)(C)C | C16H23N3O3S
reactant | isobutyl bromide | C(C(C)C)Br | C4H9Br
product | (4S)-4-(1(R)-tert-butoxyethyl)-3-isobutyl-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine | 0.26 g, 56% | C(C)(C)(C)O[C@H](C)[C@@H]1N(C(SC1)=NC1=C(C=C(C=C1)[N+](=O)[O-])C)CC(C)C | C20H31N3O3S
